data/my_data/train.txt
[C:1]1([O:29][CH2:28][CH2:27][CH2:26][CH2:25][CH2:24][CH2:23][CH2:22][CH3:21])([F:101])[CH:2]=[CH:3][C:4]2=[C:19]([O-:20])[C:18]3=[CH:17][C:16]4=[CH:15][CH:14]=[CH:13][CH:12]=[C:11]4[CH:10]=[C:9]3[C:7](=[O:8])[C:5]2=[CH:6]1.[HH:301].[Na+]>>[C:1]1([O:29][CH2:28][CH2:27][CH2:26][CH2:25][CH2:24][CH2:23][CH2:22][CH3:21])=[CH:6][C:5]2=[C:4]([CH:3]=[CH:2]1)[C:19](=[O:20])[C:18]1=[CH:17][C:16]3=[CH:15][CH:14]=[CH:13][CH:12]=[C:11]3[CH:10]=[C:9]1[C:7]2=[O:8].[F-:101].[HH:301].[Na+]
[AlH4-:1].[CH3:2][CH:3]1[CH2:4][CH2:5][CH2:6][N:7]1[CH2:8][CH2:9][CH2:10][O:11][c:12]1[cH:13][cH:14][c:15](-[c:16]2[n:17][c:18]([CH2:19][CH:20]=[N+:21]3[CH2:22][CH2:23][CH2:24][CH2:25]3)[cH:26][o:27]2)[cH:28][cH:29]1.[O-:30][AlH3-:31]>>[AlH3:1].[CH3:2][CH:3]1[CH2:4][CH2:5][CH2:6][N:7]1[CH2:8][CH2:9][CH2:10][O:11][c:12]1[cH:13][cH:14][c:15](-[c:16]2[n:17][c:18]([CH2:19][CH2:20][N:21]3[CH2:22][CH2:23][CH2:24][CH2:25]3)[cH:26][o:27]2)[cH:28][cH:29]1.[O-:30][AlH3-:31]
[CH3:23][O:22][c:21]1[cH:20][cH:19][cH:18][c:17]([S:16][c:15]2[cH:14][cH:13][c:12]3[s:11][c:3](-[c:4]4[cH:5][cH:6][n:7][c:8]([NH2:9])[n:10]4)[c:2]([CH3:1])[c:29]3[cH:28]2)[cH:27]1.[Br:26][B:24]([Br:25])[Br:30].[OH2:31]>>[CH3:1][c:2]1[c:3](-[c:4]2[cH:5][cH:6][n:7][c:8]([NH2:9])[n:10]2)[s:11][c:12]2[cH:13][cH:14][c:15]([S:16][c:17]3[cH:18][cH:19][cH:20][c:21]([O+:22]([CH3:23])[B:24]([Br:25])[Br:26])[cH:27]3)[cH:28][c:29]12.[Br-:30].[OH2:31]
[C:1](=[NH+:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[CH3:16][O:17][c:18]1[cH:19][c:20]2[nH:21][n:22][cH:23][c:24]2[cH:25][c:26]1[NH:27][c:28]1[n:29][cH:30][n:31][c:32]2[s:33][c:34]3[c:35]([c:36]12)[CH2:37][CH2:38][CH:39]([C:40](=[O:41])[O-:42])[CH2:43]3.CNCCO>>[C:1]([NH:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)(=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[O:42][C:40]([CH:39]1[CH2:38][CH2:37][c:35]2[c:34]([s:33][c:32]3[n:31][cH:30][n:29][c:28]([NH:27][c:26]4[c:18]([O:17][CH3:16])[cH:19][c:20]5[nH:21][n:22][cH:23][c:24]5[cH:25]4)[c:36]32)[CH2:43]1)=[O:41].CNCCO
[O:2]=[C:3]([OH:4])[CH2:5][CH2:6][c:7]1[cH:26][cH:25][c:10]([S:11][CH2:12][CH2:13][NH2+:14][S:15](=[O:17])([O-:16])([Cl:1])[c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[cH:9][cH:8]1>>[Cl-:1].[O:2]=[C:3]([OH:4])[CH2:5][CH2:6][c:7]1[cH:8][cH:9][c:10]([S:11][CH2:12][CH2:13][NH2+:14][S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]2)[cH:25][cH:26]1
[C:1](=[N:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)=[NH+:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[O:16]=[C:17]([O-:18])[c:19]1[cH:20][cH:21][c:22]([CH2:23][n:24]2[n:25][c:26]([CH:27]3[CH2:28][CH2:29][CH2:30][CH2:31][CH2:32]3)[cH:33][c:34]2-[c:35]2[cH:36][cH:37][c:38]([O:39][C:40]([F:41])([F:42])[F:43])[cH:44][cH:45]2)[cH:46][cH:47]1.Nc1nnn[nH]1>>[C:1](=[N:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)([NH:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[O:18][C:17](=[O:16])[c:19]1[cH:20][cH:21][c:22]([CH2:23][n:24]2[n:25][c:26]([CH:27]3[CH2:28][CH2:29][CH2:30][CH2:31][CH2:32]3)[cH:33][c:34]2-[c:35]2[cH:36][cH:37][c:38]([O:39][C:40]([F:41])([F:42])[F:43])[cH:44][cH:45]2)[cH:46][cH:47]1.Nc1nnn[nH]1
[C:8](=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)([NH:16][CH:17]1[CH2:18][CH2:19][CH2:20][CH2:21][CH2:22]1)[O:23][C:24]([c:25]1[cH:26][cH:27][c:28](-[n:29]2[cH:30][c:31](-[c:32]3[n:33]([CH3:34])[n:35][n:36][c:37]3-[c:38]3[cH:39][cH:40][cH:41][cH:42][c:43]3[F:44])[n:45][cH:46]2)[n:47][cH:48]1)=[O:49].[NH2:1][CH:2]1[CH2:3][CH2:4][O:5][CH2:6][CH2:7]1>>[NH2+:1]([CH:2]1[CH2:3][CH2:4][O:5][CH2:6][CH2:7]1)[C:24]([O:23][C:8](=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[NH:16][CH:17]1[CH2:18][CH2:19][CH2:20][CH2:21][CH2:22]1)([c:25]1[cH:26][cH:27][c:28](-[n:29]2[cH:30][c:31](-[c:32]3[n:33]([CH3:34])[n:35][n:36][c:37]3-[c:38]3[cH:39][cH:40][cH:41][cH:42][c:43]3[F:44])[n:45][cH:46]2)[n:47][cH:48]1)[O-:49]
[CH3:40][CH2:39][O:38][C:36](=[O:37])[NH:35][N:34]([C:32](=[O:33])[O:31][CH2:30][CH3:29])[P:8]([OH+:7][CH:6]1[CH2:5][O:4][C:2]([CH3:1])([CH3:3])[O:28][CH2:27]1)([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:41][CH2:42][c:43]1[cH:44][c:45](-[c:46]2[n:47][o:48][c:49](-[c:50]3[cH:51][c:52]([CH3:53])[n:54][c:55]([N:56]([CH2:57][CH3:58])[CH2:59][CH3:60])[cH:61]3)[n:62]2)[cH:63][c:64]([CH3:65])[c:66]1[O-:67]>>[CH3:1][C:2]1([CH3:3])[O:4][CH2:5][CH:6]([OH+:7][P+:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[CH2:27][O:28]1.[CH3:29][CH2:30][O:31][C:32](=[O:33])[N-:34][NH:35][C:36](=[O:37])[O:38][CH2:39][CH3:40].[CH3:41][CH2:42][c:43]1[cH:44][c:45](-[c:46]2[n:47][o:48][c:49](-[c:50]3[cH:51][c:52]([CH3:53])[n:54][c:55]([N:56]([CH2:57][CH3:58])[CH2:59][CH3:60])[cH:61]3)[n:62]2)[cH:63][c:64]([CH3:65])[c:66]1[O-:67]
